US08058269B2
The solution of rac-6′-Chloro-3′-(3-chloro-benzyl)-6-methoxy-2′-oxo-2,3,2′,3′-tetrahydro-1′H-[1,3′]biindolyl-2-carboxylic acid ethyl ester (1.0 g, 1.9 mmol) and DDQ (0.73 g, 3.2 mmol) in toluene (50 mL) was heated to 90° C. for 4 h. Then the mixture was cooled to room temperature and washed with NaOH solution (10%) and water. The organic layer was dried with Na2SO4, concentrated in vacuo to give 0.9 g rac-6,6′-Dichloro-3′-(3-chloro-benzyl)-2′-oxo-2′,3′-dihydro-1′H-[1,3′]biindolyl-2-carboxylic acid ethyl ester as yellow solid. MS: [M+H]+=513

reactant | rac-6′-Chloro-3′-(3-chloro-benzyl)-6-methoxy-2′-oxo-2,3,2′,3′-tetrahydro-1′H-[1,3′]biindolyl-2-carboxylic acid ethyl ester | 1.9 mmol, 1.0 g | C(C)OC(=O)C1N(C2=CC(=CC=C2C1)OC)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C27H24Cl2N2O4
reactant | DDQ | 3.2 mmol, 0.73 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | rac-6,6′-Dichloro-3′-(3-chloro-benzyl)-2′-oxo-2′,3′-dihydro-1′H-[1,3′]biindolyl-2-carboxylic acid ethyl ester | 0.9 g | C(C)OC(=O)C=1N(C2=CC(=CC=C2C1)Cl)C1(C(NC2=CC(=CC=C12)Cl)=O)CC1=CC(=CC=C1)Cl | C26H19Cl3N2O3
